US06133290
5-Bromo-3-(1-Methylpiperidin-4-yl)-1H-Indole
To a solution of 5-bromo-3-(1-methyl-1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole (44.6 g, 153 mmol) in 1.95 L tetrahydrofuran was added 9.0 gm platinum oxide. The reaction mixture was hydrogenated with an initial hydrogen pressure of 60 p.s.i. at ambient temperature for 24 hours. The reaction mixture was filtered and the filtrate concentrated under reduced pressure. The residue was recrystallized from acetonitrile to give 32.6 gm (73.7%) of the title compound as a white solid. MS(m/e): 293(M+). EA calculated for C14H17N2Br: C, 57.32; H, 5.96; N, 9.69.

reactant | 5-bromo-3-(1-methyl-1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole | 153 mmol, 44.6 g | BrC=1C=C2C(=CNC2=CC1)C=1CCN(CC1)C | C14H15BrN2
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 1.95 L | O1CCCC1 | C4H8O
catalyst | platinum oxide | 9.0 gm | [Pt]=O
product | 5-Bromo-3-(1-Methylpiperidin-4-yl)-1H-Indole | 32.6 gm, 73.7% | BrC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H17BrN2
